US09388161B2
A 1000-mL 3-necked round-bottom flask was charged with (2S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline (47.41 g, 267.5 mmol), dichloromethane (500 mL), and pyridine (38 mL). Cyclopropanecarbonyl chloride (28.4 g, 271.7 mmol) was added dropwise with stirring at 0° C., and the resulting solution stirred for 3 h at 0° C. The reaction mixture was poured into 400 mL of water/ice, and then washed with 2 N hydrochloric acid (1×100 mL) and brine (3×300 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 0-15% ethyl acetate/petroleum ether) to afford (2S)-1-cyclopropanecarbonyl-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline (64.6 g, 98%) as a yellow solid. MS (ES, m/z): 246 [M+H]+

reactant | (2S)-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline | 267.5 mmol, 47.41 g | COC1=C2CC[C@@H](NC2=CC=C1)C | C11H15NO
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
reactant | Cyclopropanecarbonyl chloride | 271.7 mmol, 28.4 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 38 mL | N1=CC=CC=C1 | C5H5N
product | (2S)-1-cyclopropanecarbonyl-5-methoxy-2-methyl-1,2,3,4-tetrahydroquinoline | 64.6 g, 98% | C1(CC1)C(=O)N1[C@H](CCC2=C(C=CC=C12)OC)C | C15H19NO2
